### PR TITLE
feat: First Derivative Test from calculus

### PR DESCRIPTION
**Pull request by bjoernkjoshanssen**
As discussed at
https://leanprover.zulipchat.com/#narrow/stream/116395-maths/topic/Second.20Derivative.20Test

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/FirstDerivativeTest.lean [hunk 1]
```diff
@@ -0,0 +1,237 @@
...
+
+/-- If `f` is differentiable on `(a,b)`, and `x ∈ (a,b)`, then `f` is differentiable at `x`.-/
+theorem differentiableOn_differentiableAt_Ioo.{u_1, u_2, u_3} {𝕜 : Type u_1}
+  [NontriviallyNormedField 𝕜] {E : Type u_2} [NormedAddCommGroup E] [NormedSpace 𝕜 E]
+    [LinearOrder E] [OrderClosedTopology E]
+    {a x b : E} (hab : x ∈ Set.Ioo a b)
+    {F : Type u_3} [NormedAddCommGroup F] [NormedSpace 𝕜 F]
+    {f : E → F}
+    (hd₀ : DifferentiableOn 𝕜 f (Set.Ioo a b)) :
+    DifferentiableAt 𝕜 f x := by
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/FirstDerivativeTest.lean:52]: I don't think that we need a separate lemma for `hd₀.differentiableAt (isOpen_Ioo.mem_nhds hab)`.

File: Mathlib/Analysis/Calculus/FirstDerivativeTest.lean [hunk 2]
```diff
@@ -0,0 +1,237 @@
...
+  apply DifferentiableOn.differentiableAt
+  exact hd₀
+  refine IsOpen.mem_nhds ?hs.hs hab
+  apply isOpen_Ioo
+
+/-- If `f` is continuous at `b` and differentiable on `(a,b)` then `f` is
+  continuous on the half-open interval `(a,b]`. -/
+theorem continuous_Ioc.{u_1, u_2, u_3} {𝕜 : Type u_1} [NontriviallyNormedField 𝕜]
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/FirstDerivativeTest.lean:60]: The name is too generic and doesn't mention derivatives at all.

File: Mathlib/Analysis/Calculus/FirstDerivativeTest.lean [hunk 3]
```diff
@@ -0,0 +1,237 @@
...
+  {E : Type u_2} [NormedAddCommGroup E] [NormedSpace 𝕜 E]
+    [LinearOrder E] [OrderClosedTopology E]
+    {F : Type u_3} [NormedAddCommGroup F] [NormedSpace 𝕜 F]
+    {f : E → F}
+    {a b : E}
+    (g₀ : a < b) (h : ContinuousAt f b)
+    (hd₀ : DifferentiableOn 𝕜 f (Set.Ioo a b)) : ContinuousOn f (Set.Ioc a b) := by
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/FirstDerivativeTest.lean:67]: It's enough to assume that `f` is continuous at `b` and is continuous on `Ioo`, no need to talk about differentiability.

File: Mathlib/Analysis/Calculus/FirstDerivativeTest.lean [hunk 4]
```diff
@@ -0,0 +1,237 @@
...
+      · exact hx.2
+    have hD : DifferentiableAt 𝕜 f x := by
+      apply differentiableOn_differentiableAt_Ioo;repeat tauto
+    apply ContinuousAt.continuousWithinAt
+    · exact DifferentiableAt.continuousAt hD
+
+/-- If `f` is differentiable on a set `s` then so is `-f`. -/
+theorem differentiableOn_neg_Ioo
+  {f : ℝ → ℝ} {s : Set ℝ} (hd₀ : DifferentiableOn ℝ f s) :
+    DifferentiableOn ℝ (-f) s := by
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/FirstDerivativeTest.lean]: We have a generic `DifferentiableOn.neg`.

File: Mathlib/Analysis/Calculus/FirstDerivativeTest.lean [hunk 5]
```diff
@@ -0,0 +1,237 @@
...
+/-!
+### The First-Derivative Test
+
+Using the connection beetween monotonicity and derivatives we obtain the familiar
+First-Derivative Test from calculus.
+-/
+
+/-- If `f` is monotone on `(a,b]` and antitone on `[b,c)` then `f` has
+a local maximum at `b`. -/
+lemma isLocalMax_of_mono_anti.{u, v}
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/FirstDerivativeTest.lean:128]: This can go somewhere in `Topology/Order/`

File: Mathlib/Analysis/Calculus/FirstDerivativeTest.lean [hunk 6]
```diff
@@ -0,0 +1,237 @@
...
+    the derivative `f'` is nonpositive on `(b,c)`.
+  Then `f` has a local maximum at `a`. -/
+lemma first_derivative_test_max {f : ℝ → ℝ} {a b c : ℝ}
+    (g₀ : a < b) (g₁ : b < c)
+    (h : ContinuousAt f b)
+    (hd₀ : DifferentiableOn ℝ f (Set.Ioo a b))
+    (hd₁ : DifferentiableOn ℝ f (Set.Ioo b c))
+    (h₀ :  ∀ x ∈ Set.Ioo a b, 0 ≤ deriv f x)
+    (h₁ :  ∀ x ∈ Set.Ioo b c, deriv f x ≤ 0)
+    : IsLocalMax f b := by
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/FirstDerivativeTest.lean]: Should we assume that `∀ᶠ x in 𝓝[≠] b, DifferentiableAt ℝ f x`, `∀ᶠ x in 𝓝[<] b, deriv f x ≤ 0`, and `∀ᶠ x in 𝓝[>] b, 0 ≤ deriv f x`.

Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/FirstDerivativeTest.lean]: That makes sense. Maybe two versions, `first_derivative_test_max` and `first_derivative_test_max'` since mine is a bit easier to understand?

File: Mathlib/Analysis/Calculus/FirstDerivativeTest.lean (hunk 5 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/FirstDerivativeTest.lean:128]: Since it builds on both `LocalExtr.lean` and `OrderClosed.lean`, maybe a new file `OrderClosedExtr.lean`?

File: Mathlib/Analysis/Calculus/FirstDerivativeTest.lean (hunk 2 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/FirstDerivativeTest.lean]: Indeed, now I'm thinking there is no need for this to be a lemma. Converted to just a "have" statement.

File: Mathlib/Analysis/Calculus/FirstDerivativeTest.lean (hunk 3 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/FirstDerivativeTest.lean]: Indeed, now I'm thinking there is no need for this to be a lemma. Converted to just a "have" statement.

File: Mathlib/Analysis/Calculus/FirstDerivativeTest.lean (hunk 4 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/FirstDerivativeTest.lean]: Great! Using that, I was able to delete this "theorem" now.

File: Mathlib/Analysis/Calculus/FirstDerivativeTest.lean (hunk 1 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/FirstDerivativeTest.lean]: lol... OK, I've deleted it (it was only used in an already deleted lemma)

File: Mathlib/Analysis/Calculus/FirstDerivativeTest.lean (hunk 6 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/FirstDerivativeTest.lean]: Now I have added the precise statement you suggested, sorry for the delay.

**Comment by bjoernkjoshanssen** [comment]
Because of the merge conflict I am closing this one and starting a new one
